US06884821B1
5 g of methyl (Z)-2-[(benzyloxy)carbonyl]amino-3-(3-[(tert-butoxycarbonyl)amino]methyl-4-methoxyphenyl)-2-propenoate was dissolved in methanol. 0.7 g of 10% palladium-carbon was added thereto, followed by stirring for 16 hours in a hydrogen atmosphere. The reaction solution was filtered and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate), to give 3.4 g of methyl 2-amino-3-(3-[(tert-butoxycarbonyl)amino]methyl-4-methoxyphenyl)propanoate was obtained.

reactant | methyl (Z)-2-[(benzyloxy)carbonyl]amino-3-(3-[(tert-butoxycarbonyl)amino]methyl-4-methoxyphenyl)-2-propenoate | 5 g | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C1=CC(=C(C=C1)OC)CNC(=O)OC(C)(C)C | C25H30N2O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 0.7 g | [C].[Pd]
product | methyl 2-amino-3-(3-[(tert-butoxycarbonyl)amino]methyl-4-methoxyphenyl)propanoate | 3.4 g | NC(C(=O)OC)CC1=CC(=C(C=C1)OC)CNC(=O)OC(C)(C)C | C17H26N2O5
